US04510143
A mixture of 250 mg of 1-oxo-1H-pyrimido[1,2-a]quinoxaline-2-carboxylic acid and 200 mg of carbonyldiimidazole in 5 ml of dry dimethylformamide was heated over a steam bath for 15 minutes and then 100 mg of 5-aminotetrazole were added thereto. The mixture obtained was heated over a steam bath for another 30 minutes and was then poured into water and left at room temperature for 1 hour. The solid obtained was filtered off, was washed with water and ether and dried to obtain 240 mg (61% yield) of N-(5-tetrazolyl)-1-oxo-1H-pyrimido[1,2-a]quinoxaline-2-carboxamide melting above 300°.

reactant | 1-oxo-1H-pyrimido[1,2-a]quinoxaline-2-carboxylic acid | 250 mg | O=C1C(=CN=C2N1C1=CC=CC=C1N=C2)C(=O)O | C12H7N3O3
reactant | carbonyldiimidazole | 200 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-aminotetrazole | 100 mg | NC1=NN=NN1 | CH3N5
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-(5-tetrazolyl)-1-oxo-1H-pyrimido[1,2-a]quinoxaline-2-carboxamide | 240 mg, 61% yield | N1N=NN=C1NC(=O)C1=CN=C2N(C3=CC=CC=C3N=C2)C1=O | C13H8N8O2
